US09024032B2
5-(Benzyloxy)-4-oxo-4H-pyran-2-carboxylic acid (68.9 g, 280 mmol) was added to 300 mL of quinoline at 235° C. and the mixture was heated at reflux for 30 min. The mixture was cooled to room temperature and concentrated to give a residue which was purified by silica gel chromatography to give 3-(benzyloxy)-4H-pyran-4-one, 1H-NMR (CDCl3, 400 MHz) δ 7.64 (dd, J=5.6, 0.8 Hz, 1H), 7.53 (d, J=0.4 Hz, 1H), 7.39-7.28 (m, 5H), 6.40(d, J=5.6 Hz, 1H), 5.06 (s, 2H). MS (M+H)+ 203.0.

reactant | 5-(Benzyloxy)-4-oxo-4H-pyran-2-carboxylic acid | 280 mmol, 68.9 g | C(C1=CC=CC=C1)OC=1C(C=C(OC1)C(=O)O)=O | C13H10O5
solvent | quinoline | 300 mL | N1=CC=CC2=CC=CC=C12 | C9H7N
product | 3-(benzyloxy)-4H-pyran-4-one | C(C1=CC=CC=C1)OC1=COC=CC1=O | C12H10O3
